Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
rash, thrombocytopenia  
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ without significant PMH, who presented to her PCP ___ ___ 
weeks of increasing lower extremity peticheal rash after shaving 
her legs. Also recalls last menstrual period being heavier than 
previously. otherwise, no obvious bleeding, denies joint pains, 
melena, hematuria, bleeding gums.  
.  
PCP drew labs, and called pt when platlets noted to be 5, pt was 
sent to ED.  
.  
ROS otherwise negative for f/c/ns/visual changes/cp/sob/n/v/abd 
pain, diarrhea, constipation, melena, dysuria. pt notes +HA 
today, gradual onset, mild, R>L, somewhat similar to prior 
migraines (treated by d/c of OCP), no visual changes.  
.  
no recent medication changes, has been taking advil 800mg twice 
daily for 5 weeks for shoulder tendonitis.  
.  
In ED VS=98.9 98 117/80 16 98%RA. platlets were noted to be 5, 
LFTs elevated, HCT ___. UA with small blood, otherwise with 
multiple epis. CT HEAD prelim showed no obvious ICH. ED spoke 
with hematology who felt presumptive diagnosis of ITP 
reasonable, and recommended starting prednisone 60mg po qdaily. 
Pt otherwise remains asymptomatic.  

 
Past Medical History:
none.  
h/o c-section without prolonged bleeding.  

 
Social History:
___
Family History:
denies FH of blood disorders.  

 
Physical Exam:
VS: 98.11 106/64 9 20 97%RA  
GEN: NAD  
HEENT: PERRLA, EOMI, sclera anicteric, OP with few petichae on 
palette, MMM, no LAD, no carotid bruits. No JVD.  
CV: regular, nl s1, s2, no m/r/g.  
PULM: CTA B, no r/r/w.  
ABD: soft, NT, ND, + BS, no HSM. +petichael rash.  
EXT: warm, 2+ dp/radial pulses ___, no femoral bruits.  
NEURO: alert & oriented x 3, CN II-XII grossly intact.  
SKIN: extensive petichael rash B ___.  

 
Pertinent Results:
ADMISSION LABS:
.
___ 09:05PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 09:05PM URINE  BLOOD-SM NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 09:05PM URINE  ___ BACTERIA-OCC YEAST-NONE 
___ 08:20PM   GLUCOSE-118* UREA N-16 CREAT-0.8 SODIUM-140 
POTASSIUM-3.8 CHLORIDE-104 TOTAL CO2-26 ANION GAP-14
___ 08:20PM   LD(LDH)-301*
___ 08:20PM   HAPTOGLOB-86
___ 08:20PM   WBC-8.3 RBC-3.97* HGB-12.2 HCT-34.1* MCV-86 
MCH-30.8 MCHC-35.9* RDW-13.9
___ 08:20PM   NEUTS-38.3* BANDS-0 LYMPHS-55.3* MONOS-3.6 
EOS-1.9 BASOS-1.0
___ 08:20PM   HYPOCHROM-NORMAL ANISOCYT-NORMAL 
POIKILOCY-NORMAL MACROCYT-NORMAL MICROCYT-NORMAL 
POLYCHROM-NORMAL
___ 08:20PM   PLT SMR-RARE PLT COUNT-6* LPLT-2+
___ 08:20PM   ___ PTT-25.5 ___
___ 08:20PM   RET AUT-2.6
___ 10:25AM   GLUCOSE-92
___ 10:25AM   UREA N-14 CREAT-0.7 SODIUM-139 POTASSIUM-3.8 
CHLORIDE-103 TOTAL CO2-26 ANION GAP-14
___ 10:25AM   estGFR-Using this
___ 10:25AM   ALT(SGPT)-158* AST(SGOT)-67* ALK PHOS-62 
AMYLASE-71 TOT BILI-1.0 DIR BILI-0.2 INDIR BIL-0.8
___ 10:25AM   IRON-77
___ 10:25AM   calTIBC-347 FERRITIN-77 TRF-267
___ 10:25AM   ___
___ 10:25AM   CRP-2.8
___ 10:25AM   WBC-8.2 RBC-4.36 HGB-13.6 HCT-39.1# MCV-90 
MCH-31.2 MCHC-34.7 RDW-13.5
___ 10:25AM   NEUTS-42* BANDS-0 ___ MONOS-7 EOS-3 
BASOS-0 ATYPS-7* ___ MYELOS-0
___ 10:25AM   HYPOCHROM-NORMAL ANISOCYT-NORMAL 
POIKILOCY-NORMAL MACROCYT-NORMAL MICROCYT-NORMAL 
POLYCHROM-NORMAL
___ 10:25AM   PLT SMR-RARE PLT COUNT-5*# LPLT-3+
___ 10:25AM   SED RATE-10
.
___ Head CT: No acute intracranial abnormality.
(The right ocular lens is not visualized and not included on the 
present set of images. To correlate clinically.)
 
Brief Hospital Course:
___ presenting with 1.5 weeks petichael rash and 
thrombocytopenia (platlets of 5).  
.  
# thrombocytopenia - Definite etiology unclear as yet, but 
likely post-viral (given atypical leukocytes also on smear), 
medication induced (NSAIDs), or ITP.  There was no evidence of 
bleeding noted, and head CT was negative.  Hemolysis labs were 
negative, and no schistocytes were noted on smear.  Iron studies 
and B12 were unremarkable.  HIV and hepatitis panel were 
negative.  Started prednisone empirically.  Platelet count was 
initally 5, and gradually increased to 15 on the day of 
discharge.  LFTs were also mildly elevated initially, but 
trended downward.  Antiplatelet antibody was sent, and was still 
pending at the time of discharge.  Hematology followed the 
patient during her hospital course.  She was discharged on 
prednisone 60mg to be continued until followup with hematology, 
with plan for a slow taper.  She will have her platelet count 
checked tomorrow on the oncology floor of ___, and then every 
other day at her PCP's office at least until her hematology 
followup appointment.  
.  
# HA - Mild, simliar to prior migraines per pt, though no visual 
changes now. Head CT negative.  Treated with tylenol.  Avoiding 
NSAIDs given thrombocytopenia.  
 
Medications on Admission:
advil 400-600mg po bid x 5 weeks for shoulder tendonitis
 
Discharge Medications:
1. Prednisone 20 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).
Disp:*90 Tablet(s)* Refills:*2*
2. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO TID (3 times a day): you may take an 
over-the-counter calcium supplement; for a total of 1200 mg 
daily - split in 2 or 3 doses.  
3. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily): take an over-the-counter vitamin D 
supplement - can be taken all at once.  
4. Outpatient Lab Work
Please go to ___ on ___ to have a 
CBC drawn.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: thrombocytopenia (idiopathic thrombocytopenic 
purpura vs. drug induced vs. post-viral)

 
Discharge Condition:
good; no evidence of bleeding; 

 
Discharge Instructions:
You have been hospitalized with a low platelet count.  

You should take prednisone daily as prescribed.
You should take calcium and vitamin D to help protect your 
bones, especially while you are on prednisone.
You should avoid taking Advil/Ibuprofen and other NSAIDs.

You should have a CBC (with platelet count) drawn on ___ at 7 
___ on the ___.  You have been given a 
prescription for this.  Thereafter you should have a CBC drawn 
every other day at your PCP's office until you see your 
hematologist or your PCP. 

If you experience any bleeding, fevers or chills, severe 
headache, or any other concerning symptoms, please call your 
doctor or return to the emergency room.
You also need to mention to your PCP that you had elevated liver 
function tests.  Your hepatitis B (S Ag/Ab,no C Ab) and C panels 
were negative.  You should have him check it again in his 
office. 
 
Followup Instructions:
___